US07943774B2
1-{4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}-2-(thiophen-3-yl)ethanone (I-63)
Thiophen-3-ylacetic acid (156 mg) and Hünig base (323 mg) are dissolved in dichloromethane (10 ml) and stirred for 30 min. 4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride (II-1, 309 mg), prepared according to Process 1.2, is added, and the mixture is stirred for a further 5 min before bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (599 mg) is added. The reaction mixture is stirred at room temperature overnight. After removal of the solvent under reduced pressure, the residue is purified chromatographically. This gives 1-{4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}-2-(thiophen-3-yl)ethanone (99 mg).

reactant | Thiophen-3-ylacetic acid | 156 mg | S1C=C(C=C1)CC(=O)O | C6H6O2S
reactant | Hünig base | 323 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride | 309 mg | Cl.C1(=CC=CC=C1)CCC=1N=C(SC1)C1CCNCC1
reactant | bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 599 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-{4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}-2-(thiophen-3-yl)ethanone | C1(=CC=CC=C1)CCC=1N=C(SC1)C1CCN(CC1)C(CC1=CSC=C1)=O | C22H24N2OS2
